US07465726B2
5-Bromo-4-chloro-1H-pyrrolo[2,3-b]pyridine
To a solution of 5-bromo-4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (10.1 g, ≈14.0 mmol; crude material prepared according to Tetrahedron Lett., 2004, 45, 2317-2319) in IPA (250 mL) at 0° C. was added 2N H2SO4 (25 mL) and the mixture was allowed to warm to RT and stirred overnight. IPA was evaporated at 35° C. and water was added to the residue and neutralized with 2N NaOH. The precipitate formed was filtered, washed with water followed by hexane, and dried under vacuum to yield the title compound as off-white solid. MS (ES+): m/z 233.01 (100) [MH+]; HPLC: tR=4.51 min (ZQ2000, polar—15 min).

reactant | 5-bromo-4-chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | ≈14.0 mmol, 10.1 g | BrC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)Cl | C16H24BrClN2Si
reactant | H2SO4 | 2N, 25 mL | OS(=O)(=O)O | H2O4S
solvent | IPA | 250 mL | CC(C)O | C3H8O
product | 5-Bromo-4-chloro-1H-pyrrolo[2,3-b]pyridine | BrC=1C(=C2C(=NC1)NC=C2)Cl | C7H4BrClN2
